* C:\Users\Tammo\Desktop\LTSpice\ltspice.models\latch_01\latch_01.asc
V1 IN 0 5V
R1 OUT 0 100
R2 N002 0 1Meg
R3 IN N001 1Meg
S1 0 N001 ON 0 SW
S2 0 N002 OFF 0 SW
V2 ON 0 PULSE(0 1 1 0 0 2m)
V3 OFF 0 PULSE(0 1 2 0 0 2m)
M3 OUT N001 IN IN PMOS
M1 N002 N001 IN IN PMOS
M4 N001 N002 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Tammo\Documents\LTspiceXVII\lib\cmp\standard.mos
.model SW SW(Ron=1m Roff=1G Vt=.5 Vh=-.4)
.model NMOS NMOS(VTO=1 KP=1)
.model PMOS PMOS(VTO=-1 KP=1)
.tran 0 3 0 0.5m
.backanno
.end
